US08476449B2
Glycine ethyl ester hydrochloride (140 mg, 1 mmol) and ethyl isothiocyanatoacetate (145 mg, 1 mmol) were dissolved in acetonitrile (6 mL), triethylamine (0.6 mL) was added thereto, and the mixture was stirred at room temperature (25° C.) for 10 minutes. After the reaction was completed the solvent was removed by evaporation under reduced pressure, and the residue was subjected to silica gel column chromatography using ethyl acetate/hexane (1/1 (volume ratio)) as an eluent, to give ethyl-2-(5-oxo-2-thioxoimidazolidin-1-yl)acetate in a yield of 170 mg (yield 84.2%).

reactant | Glycine ethyl ester hydrochloride | 1 mmol, 140 mg | Cl.C(C)OC(CN)=O
reactant | ethyl isothiocyanatoacetate | 1 mmol, 145 mg | N(=C=S)CC(=O)OCC | C5H7NO2S
reactant | triethylamine | 0.6 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | ethyl-2-(5-oxo-2-thioxoimidazolidin-1-yl)acetate | yield 84.2% | C(C)OC(CN1C(NCC1=O)=S)=O | C7H10N2O3S
